US05362906
Step 1: Dimethyl [1-acetyl-4,8,12-trimethyltrideca-3,7,11-trienyl]phosphonate
Dimethyl 2-oxopropylphosphonate (560 μL, 4.0 mmol) was added dropwise to a stirred suspension of sodium hydride (50% oil suspension, prewashed with hexane) (210 mg, 4.8 mmol) in anhydrous THF (15 mL) at 20° C. under an Argon atmosphere. The resulting slurry was stirred at 20° C. for 2 hours to allow for complete formation of the sodio derivative and then treated dropwise with farnesyl bromide (1.14 mL, 4.2 mmol). The cloudy yellow mixture was stirred at 20° C. for 2 hours and then quenched with saturated NH4Cl solution. The resulting mixture was washed with water, dried, filtered and evaporated to give the crude product which was purified by flash chromatography on a silica gel column. Elution of the column with hexane:ethyl acetate:methanol (40:10:1, v:v:v) gave the title compound as gum.

reactant | Dimethyl 2-oxopropylphosphonate | 4.0 mmol, 560 μL | O=C(CP(OC)(OC)=O)C | C5H11O4P
reactant | sodium hydride | 4.8 mmol, 210 mg | [H-].[Na+]
reactant | farnesyl bromide | 4.2 mmol, 1.14 mL | C(C=C(C)CCC=C(C)CCC=C(C)C)Br | C15H25Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Dimethyl [1-acetyl-4,8,12-trimethyltrideca-3,7,11-trienyl]phosphonate | C(C)(=O)C(CC=C(CCC=C(CCC=C(C)C)C)C)P(OC)(OC)=O | C20H35O4P
